US07244726B2
Methyl 4-(1-(tert-butyloxycarbonyl)piperidin-4-yloxy)-2-nitrophenoxyacetate (D27)
To a stirred solution of 4-(methoxycarbonylmethoxy)-3-nitrophenol (6.0 g, 26.8 mmol), 1-(tert-butyloxycarbonyl)-4-hydroxypiperidine (13.8 g, 68.9 mmol) and triphenylphosphine (18.0 g, 68.9 mmol) in tetrahydrofuran (80 mL) at 20° C. under argon was added diisopropyl azodicarboxylate (13.9 g, 68.9 mmol), dropwise over 0.75 h. The resulting solution was stirred at 20° C. for 4 h, then evaporated in vacuo. Chromatography of the residue on silica (400 g) eluting with 5–50% ether in hexane gave the title compound (10.1 g, 93%) as a yellow oil.

reactant | 4-(methoxycarbonylmethoxy)-3-nitrophenol | 26.8 mmol, 6.0 g | COC(=O)COC1=C(C=C(C=C1)O)[N+](=O)[O-] | C9H9NO6
reactant | 1-(tert-butyloxycarbonyl)-4-hydroxypiperidine | 68.9 mmol, 13.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 68.9 mmol, 18.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 68.9 mmol, 13.9 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | Methyl 4-(1-(tert-butyloxycarbonyl)piperidin-4-yloxy)-2-nitrophenoxyacetate | 10.1 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(OCC(=O)OC)C=C1)[N+](=O)[O-] | C19H26N2O8
